US05196434
3-METHYL-6-(BROMOACETYL)BENZOTHIAZOLINONE
210 g (1.60 mol) of aluminum chloride are introduced into a 500-cm3 ground-necked flask surmounted by a condenser, and 43 cm3 of dimethylformamide are then added dropwise and with magnetic stirring via a dropping funnel. 33 g (0.20 mol) of 3-methylbenzothiazolinone are then added and, while the reaction medium homogenizes, the temperature is stabilized at 70° C. using an oil bath. 19.8 cm3 (0.24 mol) of bromoacetyl chloride are then added gradually. After the addition, the mixture is left stirring for one hour at a temperature of 70° C. The reaction medium is hydrolyzed by pouring it onto crushed ice and the precipitate obtained is drained, washed with water until the filtrate is neutral and dried. The product is recrystallized in 95° strength alcohol.

reactant | aluminum chloride | 1.60 mol, 210 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methylbenzothiazolinone | 0.20 mol, 33 g | CN1CS(C2=C1C=CC=C2)=O | C8H9NOS
reactant | bromoacetyl chloride | 0.24 mol, 19.8 cm3 | BrCC(=O)Cl | C2H2BrClO
solvent | dimethylformamide | 43 cm3 | CN(C=O)C | C3H7NO
product | 3-METHYL-6-(BROMOACETYL)BENZOTHIAZOLINONE | CN1CS(C2=C1C=CC(=C2)C(CBr)=O)=O | C10H10BrNO2S
